US05817599
Synthesis of N-(3-morpholinopropyl)-3-dodecylthiopropanamide
8.23 Grams of 3-dodecylthiopropionic acid, 4.6 g of oxalyl chloride and 50 ml of benzene were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and stirred for 24 hours at room temperature. After completion of the reaction, excess oxalyl chloride and benzene were distilled off under reduced pressure to prepare an acid chloride. The total of the resulting acid chloride was slowly added dropwise to 5.2 g of separately prepared N-(3-aminopropyl)morpholine, 3.7 g of triethylamine and 60 ml of N,N-dimethylacetamide which were charged in a flask. After completion of the addition, the mixture was stirred at room temperature for 2 hours. After completion of the reaction, the reaction mixture was introduced into 300 ml of pure water and extracted with chloroform. The chloroform layer was washed with saturated aqueous sodium chloride solution, and, then, chloroform was distilled off under reduced pressure and the residue was recrystallized from methanol to obtain 6.5 g of the desired product. m.p. 46° C.

reactant | 3-dodecylthiopropionic acid | C(CCCCCCCCCCC)CCC(=S)O | C15H30OS
reactant | oxalyl chloride | 4.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | N-(3-aminopropyl)morpholine | NCCCN1CCOCC1 | C7H16N2O
solvent | water | 300 ml | O | H2O
solvent | N,N-dimethylacetamide | 60 ml | CN(C(C)=O)C | C4H9NO
solvent | triethylamine | 3.7 g | C(C)N(CC)CC | C6H15N
product | N-(3-morpholinopropyl)-3-dodecylthiopropanamide | 6.5 g | O1CCN(CC1)CCCNC(CCCCCCCCCCCCCC)=S | C22H44N2OS
